data/oMe_Silver.jsonl
{"reaction_id": "NR-115_10-C(C)(CC)C_1-OC_2-S(=O)(=O)c1ccccc1_3-c1ccccc1_4-c1ccccc1_5-C(F)(F)F_6-Cc1ccccc1_7-c1ccccc1_8-CC_9-c1ccc(C)cc1","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(c1ccccc1)C(O/C(=C(/Cc1ccccc1)c1ccccc1)/O[Si](CC)(c1ccc(C)cc1)(C(C)(CC)C))(C(F)(F)F)c1ccccc1)(OC)S(=O)(=O)c1ccccc1"],"products_smiles": ["C(=C(c1ccccc1)C(C(C(=O)O[Si](CC)(c1ccc(C)cc1)(C(C)(CC)C))(c1ccccc1)Cc1ccccc1)(C(F)(F)F)c1ccccc1)(OC)S(=O)(=O)c1ccccc1"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(c1ccccc1)C(C(C(=O)O[Si](CC)(c1ccc(C)cc1)(C(C)(CC)C))(c1ccccc1)Cc1ccccc1)(C(F)(F)F)c1ccccc1)(OC)S(=O)(=O)c1ccccc1","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-308_1-c1cc2ccccc2c(O)c1","level": "medium","name": "Tollens Oxidation","reactants_smiles": ["O=Cc1cc2ccccc2c(O)c1","O","[Ag+](N)N"],"products_smiles": ["O=C(O)(c1cc2ccccc2c(O)c1)","[Ag]"],"conditions": "Aqueous Ammonia","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O([Ag](N)(N))C([OH2+])c1cc2ccccc2c(O)c1","step_weight": 0,"rationale": "The carbonyl carbon of the aldehyde is electrophilic due to the polar C=O bond, allowing nucleophilic attack by the oxygen ligand of the diamminesilver complex under basic aqueous conditions."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O([Ag](N)(N))C(O([Ag](N)(N)))c1cc2ccccc2c(O)c1","step_weight": 0,"rationale": "Proton transfer stabilizes the addition intermediate by deprotonating the oxonium species, favored in basic ammonia solution, yielding a more stable alkoxide coordinated to silver."},{"step": 3,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[O]C(O([Ag](N)(N)))c1cc2ccccc2c(O)c1","step_weight": 0,"rationale": "Homolytic cleavage of the Ag–O bond occurs as silver is reduced, facilitated by the high reduction potential of Ag+ and the stability of the resulting oxygen-centered radical intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O[C](O([Ag](N)(N)))c1cc2ccccc2c(O)c1","step_weight": 0,"rationale": "A 1,2-shift rearranges the radical center to the carbon, driven by the formation of a more stable carbon-centered intermediate and relief of electron deficiency at oxygen."},{"step": 5,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "O=C(O)c1cc2ccccc2c(O)c1","step_weight": 0,"rationale": "Final homolytic cleavage of the C–O bond to silver releases the oxidized carboxylate product, favored by the stability of the carboxylate anion in aqueous ammonia and precipitation of metallic silver."}],"description": "In Tollens oxidation, the aldehyde undergoes nucleophilic addition by the diamminesilver(I) complex in aqueous ammonia, followed by proton transfers and oxidative steps that convert it into a carboxylate, with concurrent reduction of silver ions to metallic silver."}
